US03962259
Treatment of 4-(5-fluoro-α-hydroxy-2-tolyl)-4-hydroxy-1-methylpiperidine with hydrochloric acid by the method described in Example 16d provides 1,3-dihydro-5-fluoro-1'-methylspiro[isobenzofuran-1,4'-piperidine].

reactant | 4-(5-fluoro-α-hydroxy-2-tolyl)-4-hydroxy-1-methylpiperidine | FC=1C=CC(=C(C1)CO)C1(CCN(CC1)C)O | C13H18FNO2
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydro-5-fluoro-1'-methylspiro[isobenzofuran-1,4'-piperidine] | FC=1C=C2COC3(CCN(CC3)C)C2=CC1 | C13H16FNO
